* CL05A475MP5NRN Multilayer Ceramic Capacitor Spice Model
*-----------------------------------------------------------------------------------------------
* Model Generated by Samsung Electro-Mechanics
* Samsung Spice Model Version 5.0
* Date : Jan-11-2024
* Products : Multilayer Ceramic Capacitor(General)
*-----------------------------------------------------------------------------------------------
* Characteristics :
*
*     Nominal Capacitance = 4.7uF
*     Capacitance Tolerance = +/-20%
*     TCC = X5R(-55 ~ +85 degC.)
*     Rated Voltage = 10Vdc
*     Size = 0402(unit:inch), 1005(unit:mm)
*     Length = 1.00+/-0.15mm
*     Width = 0.50+/-0.15mm
*     Thickness = 0.50+/-0.15mm
*     Reliability level = Standard
*     Lineup = Lineup Normal
*     Feature = Features Normal
*     Measurement Temperature : 25degC.
*     DC bias Value = 3.6V
*     Frequency : 100Hz ~ 6GHz
*-----------------------------------------------------------------------------------------------
* External Node Assignments :
*
*  1  o---||---o  2
*
*-----------------------------------------------------------------------------------------------
.SUBCKT CL05A475MP5NRN_Precise_DC3.6V_25degC 1 2
C1 1 3 1.57241E-6
C2 3 4 4.87192E-5
C3 4 5 7.35927E-5
C4 5 6 6.96243E-5
C5 6 7 8.35427E-5
C6 7 8 6.57374E-5
C7 8 9 9.12412E-6
C8 9 10 1.0E-10
C16 17 18 1.20420E-4
C17 18 19 6.82607E-4
C18 19 20 5.58590E-4
C19 20 21 9.18541E-4
C20 21 22 2.53303E-4
C21 22 23 2.53303E-4
C22 23 24 2.53303E-4
C23 24 25 4.08362E-6
C24 25 26 1.12884E-6
C25 26 27 2.53303E-4
C26 27 28 5.89423E-12
C27 28 2 2.53303E-4
L10 11 12 6.13683E-11
L11 12 13 3.75356E-11
L12 13 14 1.33144E-10
L13 14 15 4.45507E-11
L14 15 16 1.0E-10
L15 16 17 1.0E-10
L16 17 18 1.63455E-11
L17 18 19 8.39418E-12
L18 19 20 1.41464E-12
L19 20 21 5.40892E-13
L20 21 22 1.0E-10
L21 22 23 1.0E-10
L22 23 24 1.0E-10
L23 24 25 4.59306E-11
L24 25 26 6.22338E-11
L25 26 27 1.0E-10
L26 27 28 3.19531E-11
L27 28 2 1.0E-10
R1 1 3 1.0E8
R2 3 4 76.96830
R3 4 5 4.08845
R4 5 6 0.52211
R5 6 7 0.05401
R6 7 8 0.00842
R7 8 9 0.00182
R8 9 10 1.0E-6
R9 10 11 0.00234
R11 12 13 0.00812
R12 13 14 0.02782
R13 14 15 0.14061
R14 15 16 1.0E-6
R15 16 17 1.0E-6
R16 17 18 0.00450
R17 18 19 0.00173
R18 19 20 6.17990E-4
R19 20 21 6.08325E-4
R20 21 22 1.0E-6
R21 22 23 1.0E-6
R22 23 24 1.0E-6
R23 24 25 0.00675
R24 25 26 0.00785
R25 26 27 1.0E-6
R26 27 28 2.98097
R27 28 2 1.0E-6
.ENDS CL05A475MP5NRN_Precise_DC3.6V_25degC